US05578603
4-Amino-5-chloro-2-{(3-pentyn-2-yl)oxy}benzoic acid
To the suspension of methyl 4-amino-5-chloro-2-{(3-pentyn-2-yl)oxy}benzoate (56.0 g) in methanol (1.3 l), aqueous sodium hydroxide (5N) solution (140 ml) was added. The resultant mixture was stirred for 6 hours at 50° C., and then 3 days at room temperature. To the obtained mixture, water (1 l) was added, followed by acidification with 2N hydrochloric acid. Crystal thus precipitated was recovered by filtration, washed with water and dried to obtain 51.5 g of the title compound as colorless crystal.

reactant | methyl 4-amino-5-chloro-2-{(3-pentyn-2-yl)oxy}benzoate | 56.0 g | NC1=CC(=C(C(=O)OC)C=C1Cl)OC(C)C#CC | C13H14ClNO3
reactant | water | 1 l | O | H2O
reactant | hydrochloric acid | 2N | Cl | ClH
solvent | methanol | 1.3 l | CO | CH4O
solvent | sodium hydroxide | 5N | [OH-].[Na+]
product | 4-Amino-5-chloro-2-{(3-pentyn-2-yl)oxy}benzoic acid | 51.5 g | NC1=CC(=C(C(=O)O)C=C1Cl)OC(C)C#CC | C12H12ClNO3
